2154-12-28 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: HIV/AIDS, diarrhea, SBO, fever
   24 Hour Events:
   - Fluid resuscitation going well with K now drifting up but only 4 (on
   40 mEq every 5 hours), Ca repleted in the afternoon to normal range
   (given albumin). Cr stable - therefore appeared to be on top of
   fluid/electrolytes.
   - Flexiseal would not stay in place
   - Still dramatic stool output with soiling.
   - Nothing helpful in cultures yet
   - Holding HAART, nidanoxide (crypto tx) given NPO status due to SBO
   Allergies:
   Bactrim Ds (Oral) Sulfamethoxazole/Trimethoprim) Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2154-12-28**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-12-27**] 08:00 AM
   Lorazepam (Ativan) - [**2154-12-28**] 05:30 AM
   Morphine Sulfate - [**2154-12-28**] 05:30 AM
   Other medications:
   Flowsheet Data as of  [**2154-12-28**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 100 (92 - 124) bpm
   BP: 118/83(91) {106/70(81) - 137/89(98)} mmHg
   RR: 23 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  9,456 mL
                                                                  3,575 mL
   PO:
             TF:
   IVF:
                                                                  7,504 mL
                                                                  2,946 mL
   Blood products:
   Total out:
                                                                  4,420 mL
                                                                  1,895 mL
   Urine:
                                                                  1,870 mL
                                                                    970 mL
   NG:
                                                                  1,400 mL
                                                                    925 mL
   Stool:
   Drains:
   Balance:
                                                                  5,036 mL
                                                                  1,680 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Gen: NAD,
   Neck: Shotty Posterior Cervical Lymphadenopathy, Supple, Non Tender
   Pulm: CTA B
   CV: Tachycardic, No M/R/G
   Abd: Distended with wound vac in place, Less destintion today, +BS,
   Rebound tenderness and ttp
   Labs / Radiology
   360 K/uL
   8.7 g/dL
   113 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.0 mEq/L
   29 mg/dL
   109 mEq/L
   140 mEq/L
   26.1 %
   5.9 K/uL
        [image002.jpg]
                            [**2154-12-26**]  04:58 PM
                             [**2154-12-27**]  03:54 AM
                             [**2154-12-27**]  07:16 AM
                             [**2154-12-27**]  05:41 PM
                             [**2154-12-28**]  03:03 AM
   WBC
   4.6
   5.7
   5.9
   Hct
   23.8
   24.6
   26.1
   Plt
   382
   352
   360
   Cr
   2.3
   2.0
   2.2
   2.0
   2.0
   Glucose
   108
   609
   98
   122
   113
   Other labs: PT / PTT / INR:15.4/32.1/1.4, ALT / AST:16/39, Alk Phos / T
   Bili:68/0.2, Lactic Acid:1.7 mmol/L, LDH:302 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs:
   Imaging: [**12-28**] CXR (my read) fairly clear bilat, no effusions
   [**12-25**] CT chest/abd w.o constrast: 1. Findings consistent with
   high-grade small-bowel obstruction with a
   potential transition point in the right lower quadrant. Pattern of
   bowel gas
   suggests air trapped in mucosal folds although pneumatosis cannot be
   entirely
   excluded.
   2. Left lower lobe density most consistent with rounded atelectasis
   although
   underlying pneumonia cannot be entirely excluded. Clinical correlation
   is
   recommended.
   3. HIV-related generalized lymphadenopathy.
   4. Moderate-sized axial hiatal hernia.
   5. Anterior abdominal wall incisional wound.
   6. Multiple pulmonary nodules, stable since CT torso of [**2151-9-8**].
   Microbiology: None new
   Last positive cxrs: urine [**12-5**] - e. coli
   Bcxr [**12-4**] - coag neg staph aur
   O&P [**12-1**] - positive for CRYPTOSPORIDIUM PARVUM OOCYSTS SEEN.
   Assessment and Plan
   39 yo M with HIV/AIDs with a CD4 30 who presents with high grade small
   bowel obstruction and profuse diarrhea, in the setting of incompletely
   treated cryptosporidium.
   .
   1. SBO with ?pneumotosis: Seen on CT Abdomen on [**12-25**]. Most likely
   secondary to adhesion secondary to surgeries, however given HIV/AIDS
   status could be secondary to underlying infection or lymphoma. to
   multiple prior abdominal surgeries. Surgery aware of patient, though he
   is a poor surgical candidate. Will continue medical management.  Pt
   with copius, projectile  diarrhea this AM.
   -Serial Abdominal exams
   -NPO -including TFs
   -GJ tube to gravity
   -NG tube if patient has vomiting
   -IV fluids: NS @ 400cc/hour given losses
   -continue abx (day 1=[**12-25**]): Zosyn for gut translocation
   -f/u final read of Abdominal CT
   -pain control with IV morphine
   -inform surgery if any hemodynamic change or change in physical exam.
   .
   2. Cryptosporidium: Patient with 4L/day of profuse diarrhea. Initially
   diagnosed on [**11-20**], and started on Nitazonamide, however patient unable
   to take pos prior to this admission. Currently patient is unable to
   take Nitazonamide given SBO. Cdiff negative on [**12-20**]. Long term goal to
   restart HAART/Nitazonamide once SBO resolved.
   -continue NS @ 200cc/hour
   -continue D5W with 50 HCO3 and 20K+ @ 200cc/hour
   -f/u ID recs
   - IV Odansetron PRN
   - Increased standing ativan to 1mg TID for nausea
   - [**Hospital1 **] lytes
   .
   3. Fever: Initial low grade thought to be secondary to crypto
   infection. However spiked to 103.3 on [**12-4**]. BCX from [**12-4**] showed CoNS.
   9 day course of Vanc for CoNS bacteremia discontinued after PICC
   removed. UCX from [**12-4**] grew cipro resistant E Coli, completed 7 day
   course of CTX. IR performed LP on [**12-4**] and results negative for
   infection. Patient has chronic productive cough.  Patient spiked
   another fever on [**12-18**] which was most likely due to post procedural
   inflammation after G-J tube placed. Patient has spiked fevers daily
   starting [**12-21**] through [**12-26**] and has been pan-cultured several times.
   CXR [**12-22**] showed patchy left retrocardiac opacity, which could
   potentially represent an early focus of pneumonia vs pulmonary
   infarction.
   - Appreciate ID recs
   - Started HAART on [**12-18**], Lamivudine 100 mg daily (renal dosing),
   Ritonavir 100 mg twice daily, Darunavir 600 mg twice daily, Etravirine
   200 mg twice daily, Raltegravir 400 mg twice daily; but will need to be
   d/c'd as of [**12-25**] due to SBO
   - Hold nitazoxanide dosing for crypto as of [**12-25**] due to SBO
   - Changed azithromycin from treatment dose of crypto (600 mg) to MAC
   ppx dose once a week
   - F/U blood cultures and urine culture, all negative to date
   - CMV viral load negative
   - V/Q scan [**12-24**] read as low probability for PE
   .
   #. Anemia. HCT decreased to 22 and was previously stable at 25 after 2
   units pRBC transfusion on [**12-23**]. Likely due to dilution from IVFs. Iron
   studies consistent with anemia of chronic disease.  Hemolysis panel
   negative.  Transfused 2 units of pRBCs [**12-23**]. Patient had episode of
   hematemesis on [**12-12**]. EGD showed gastritis and duodenitis.
   - Continue to guaiac all stools
   - Continue PPI
   - Once Daily HCT, unless patient bleeds.
   - Appreciate hematology recs for evaluation of peripheral smear showing
   atypicals, bands, schistocytes, tear drops, etc. and questionable need
   for bone marrow biopsy
   .
   #. HIV/AIDS:
   - Appreciate ID recs.
   - HAART held for now given SBO
   - Restarted on atovaquone 750mg QID for secondary prophylaxis of toxo,
   will also cover PCP
   [**Name Initial (PRE) **] PCP prophylaxis switched to inhaled pentamidine as dapsone may cause
   cholestasis, now started on atovaquone as above
   - azithromycin weekly for MAC prophylaxis
   - Will attempt bactrim desensitization when he can safely tolerate it
   prior to discharge
   .
   #. [**Last Name (un) **]: Improving. Likely ATN in the setting of volume depletion. Renal
   US without evidence of hydro. Creatinine peaked at 4.2 on [**12-17**] and 2.0
   today, however this level may be diluted.
   - Appreciate renal recs
   -check [**Hospital1 **] electrolytes with aggressive potassium repletion
   - Aggressive volume repletion, will administer half the volume with NS
   and half with D5 with 150meq bicarb each running at 200cc/hr
   .
   #. Hypernatremia: Sodium this AM inaccurate. Likely secondary to
   profuse free water loss. Will continue to monitor [**Hospital1 **] lytes, as above,
   and may have to give more D5W.
   .
   # Anal HSV: Noted on exam on [**12-26**] AM. Patient started on Acyclovir.
   -continue Acyclovir
   .
   #. Headaches: Currently without headache.  Neuroexam is nonfocal. No
   meningismus. CSF is reassuring.
   .
   #. Tachycardia: Sinus tachycardia. Likely secondary to
   infection/dehydration/pain.  V/Q scan low probability for PE.
   - Continue current pain control
   - Aggressive IV hydration as above; IVF improves tachycardia to 100s
   but HR will slowly increase once IVF d/c'd and therefore will try
   continuous fluids for now
   .
   #. Chest pain: History and exam c/w costochondirits.
   - Continue current pain regimen
   - Avoid NSAIDs
   .
   #. Depression:
   - Appreciate psychiatric recs
   - continue Mirtazapine, hold while NPO
   - Outpatient neuropsych assessment to evaluate for executive
   functioning/frontal network deficits.
   .
   #. Mild transaminitis: resolved. Unclear etiology but possible related
   to TPN as now normal off of TPN. HBVcore Ab positive in [**2145**] which was
   not treated. Crypto could also infect hepatobilliary tree, but RUQ US
   was reassuring and ERCP on [**12-9**] without evidence of AIDS
   cholangiopathy.  Dapsone d/c'd.
   .
   #. Bilateral femoral avascular necrosis:
   - Ambulating
   - Needs out patient follow up
   .
   #. RML 3 mm pulmonary nodule:
   - Need repeat CT in 12 months
   .
   #. FEN: NPO; PICC placed and TPN started [**12-25**]; continuous IV
   hydration; replete lytes agressively. Albumin 1.9.
   .
   #. Access: PICC and PIV x2
   .
   #. PPX: lovenox discontinued transiently after hematemesis. Continue
   heparin sc bid.
   .
   #. Code: Full code -confirmed with patient on transfer to MICU
   .
   #. Contact: With patient and mother
   .
   # Disposition: ICU pending clinical improvement

2154-12-29 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: small bowel obstruction, HIV/AIDS, cryptosporidium
   24 Hour Events:
   - Spoke to surgery and OK to re-start Nidanoxide (for cryptospordia).
   Also would not recommmend repeating CT abd (to eval for interval
   improvement in SBO) at this time as would not affect management.
   - pt tolerated several doses of the Nidanoxide without nausea/vomiting.
   - Overall, somewhat decreased stool output in last 24 hour, although
   still with large, incontinent bowel movements Q2-3 hours.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim) Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2154-12-29**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-12-28**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2154-12-28**] 08:33 AM
   Morphine Sulfate - [**2154-12-28**] 06:42 PM
   Lorazepam (Ativan) - [**2154-12-29**] 04:30 AM
   Other medications:
   Flowsheet Data as of  [**2154-12-29**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36
C (96.8
   HR: 97 (88 - 121) bpm
   BP: 114/77(85) {103/66(77) - 134/101(108)} mmHg
   RR: 23 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                 10,613 mL
                                                                  1,738 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  8,567 mL
                                                                  1,098 mL
   Blood products:
   Total out:
                                                                  5,395 mL
                                                                  1,640 mL
   Urine:
                                                                  3,670 mL
                                                                  1,240 mL
   NG:
                                                                  1,725 mL
   Stool:
   Drains:
   400 mL
   Balance:
                                                                  5,218 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen: NAD, comfortable, c/o abd pain when prompted, denies nausea, no
   CP/SOB
   Pulm: CTA bilat
   CV: RRR, no m/g/r
   Abd: Distended with wound vac in place, +BS, + diffuse TTP, rebound
   tenderness
   Labs / Radiology
   348 K/uL
   8.6 g/dL
   102 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.7 mEq/L
   28 mg/dL
   108 mEq/L
   138 mEq/L
   25.4 %
   5.5 K/uL
        [image002.jpg]
                            [**2154-12-26**]  04:58 PM
                             [**2154-12-27**]  03:54 AM
                             [**2154-12-27**]  07:16 AM
                             [**2154-12-27**]  05:41 PM
                             [**2154-12-28**]  03:03 AM
                             [**2154-12-28**]  05:25 PM
                             [**2154-12-29**]  02:19 AM
   WBC
   4.6
   5.7
   5.9
   5.5
   Hct
   23.8
   24.6
   26.1
   26.5
   25.4
   Plt
   382
   352
   360
   348
   Cr
   2.3
   2.0
   2.2
   2.0
   2.0
   1.7
   1.7
   Glucose
   108
   609
   98
   122
   113
   107
   102
   Other labs: PT / PTT / INR:14.5/32.5/1.3, ALT / AST:16/39, Alk Phos / T
   Bili:68/0.2, Lactic Acid:1.7 mmol/L, LDH:302 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.4 mg/dL
   Imaging: none new
   Microbiology: nothing new
   Assessment and Plan
   39 yo M with HIV/AIDs with a CD4 30 who presents with high grade small
   bowel obstruction and profuse diarrhea, in the setting of incompletely
   treated cryptosporidium.
   #. SBO with ? pneumotosis: Seen on CT Abdomen on [**12-25**]. Most likely
   secondary to adhesion secondary to multiple prior surgeries, however
   given HIV/AIDS status could be secondary to underlying infection or
   lymphoma. Surgery aware of patient, but the pt is a very poor surgical
   candidate. Will continue medical management.  Overall, decreased pain
   and tolerating some PO today.
   -Serial Abdominal exams
   -NPO, although restarted Nitazonamide which pt is tolerating well
   -GJ tube to gravity
   -NG tube if patient has vomiting
   -IV fluids as below
   -continue abx (day 1=[**12-25**]): Zosyn for gut translocation, need to
   verify duration of therapy w. ID
   -pain control with IV morphine prn
   -inform surgery if any hemodynamic change or change in physical exam.
   .
   #. Cryptosporidium diarrhea: Patient initially with 4L/day of profuse
   diarrhea, although now with decreased stool output. Initially,
   diagnosed on [**11-20**], and started on Nitazonamide, however patient unable
   to take POs prior to this admission. Re-started Nitazonamide. C. diff
   negative on [**12-20**]. Would like to restart HAART when pt tolerating POs
   fully.
   - Aggressive fluid resuscitation with: 1/2NSD5W with 50 HCO3 and 20K+ @
   100cc/hour as well as NS 100cc/hour
 total 200cc/hr.
   -f/u ID recs
 need to discuss duration of therapy of Nitazonamide, as
   well as when we can restart HAART.
   - Continue ativan to 1mg TID, Compazine TID for nausea
   - IV Odansetron PRN
   - [**Hospital1 **] lytes for now
   .
   #. Anemia. HCT decreased to 22 and was previously stable at 25 after 2
   units pRBC transfusion on [**12-23**]. Likely due to dilution from IVFs. Iron
   studies consistent with anemia of chronic disease.  Hemolysis panel
   negative.  Transfused 2 units of pRBCs [**12-23**]. Patient had episode of
   hematemesis on [**12-12**]. EGD showed gastritis and duodenitis.
   - Guaiac all stools
   - Continue PPI
   - Once daily HCT, unless patient becomes hemodynamically unstable or
   has obvious bleeding.
   - Appreciate hematology recs for evaluation of peripheral smear showing
   atypicals, bands, schistocytes, tear drops, etc. and questionable need
   for bone marrow biopsy
   .
   #. HIV/AIDS:
   - Appreciate ID recs re: restarting HAART and other prophylactic meds
   - Also holding atovaquone 750mg QID for secondary prophylaxis of toxo,
   will also cover PCP,
   [**Name Initial (NameIs) **] PCP prophylaxis switched to inhaled pentamidine as dapsone may cause
   cholestasis, now started on atovaquone as above
   - re-start azithromycin weekly for MAC prophylaxis when able to take
   POs
   - Will attempt bactrim desensitization when he can safely tolerate it
   prior to discharge
   .
   #. [**Last Name (un) **]: Improving. Likely ATN in the setting of volume depletion. Renal
   US without evidence of hydro. Creatinine peaked at 4.2 on [**12-17**] and 2.0
   today.
   - Appreciate renal recs
   - Check [**Hospital1 **] electrolytes with aggressive potassium repletion
   - Aggressive volume repletion as above
   .
   Less Active Issues
   .
   #. Fever: Initial low grade thought to be secondary to crypto
   infection. However spiked to 103.3 on [**12-4**]. BCX from [**12-4**] showed CoNS.
   9 day course of Vanc for CoNS bacteremia discontinued after PICC
   removed. UCX from [**12-4**] grew cipro resistant E Coli, completed 7 day
   course of CTX. IR performed LP on [**12-4**] and results negative for
   infection. Patient has chronic productive cough.  Patient spiked
   another fever on [**12-18**] which was most likely due to post procedural
   inflammation after G-J tube placed. Patient has spiked fevers daily
   starting [**12-21**] through [**12-26**] and has been pan-cultured several times.
   CXR [**12-22**] showed patchy left retrocardiac opacity, which could
   potentially represent an early focus of pneumonia vs pulmonary
   infarction.
   - Appreciate ID recs
   - Started HAART on [**12-18**], Lamivudine 100 mg daily (renal dosing),
   Ritonavir 100 mg twice daily, Darunavir 600 mg twice daily, Etravirine
   200 mg twice daily, Raltegravir 400 mg twice daily; but currently being
   held given SBO. Can restart when pt able to tolerate POs and per ID
   recs.
   - Restarted nitazoxanide dosing for crypto as of [**2153-12-28**].
   - Changed azithromycin from treatment dose of crypto (600 mg) to MAC
   ppx dose once a week , but also holding given SBO
   - F/U blood cultures and urine culture, all negative to date
   - CMV viral load - negative
   - V/Q scan [**12-24**] read as low probability for PE
   .
   #. Hypernatremia: Will continue to monitor [**Hospital1 **] lytes, as above, and may
   have to give more D5W.
   .
   # Anal HSV: Noted on exam on [**12-26**] AM.  - continue Acyclovir
   .
   #. Headaches: Currently without headache.  Neuroexam is nonfocal. No
   meningismus. CSF is reassuring.
   .
   #. Tachycardia: Sinus tachycardia. Likely secondary to
   infection/dehydration/pain.  V/Q scan low probability for PE.
   - Continue current pain control
   - Aggressive IV hydration as above; IVF improves tachycardia to 100s
   but HR will slowly increase once IVF d/c'd and therefore will try
   continuous fluids for now
   .
   #. Chest pain: History and exam c/w costochondirits.
   - Continue current pain regimen
   - Avoid NSAIDs
   .
   #. Depression:
   - Appreciate psychiatric recs
   - holding Mirtazapine while NPO
   - Outpatient neuropsych assessment to evaluate for executive
   functioning/frontal network deficits.
   .
   #. Mild transaminitis: resolved. Unclear etiology but possible related
   to TPN as now normal off of TPN. HBVcore Ab positive in [**2145**] which was
   not treated. Crypto could also infect hepatobilliary tree, but RUQ US
   was reassuring and ERCP on [**12-9**] without evidence of AIDS
   cholangiopathy.  Dapsone d/c'd.
   .
   #. Bilateral femoral avascular necrosis:  The pt is ambulating  but
   will need out patient follow up
   .
   #. RML 3 mm pulmonary nodule:  will need repeat CT in 12 months
   .
   #. FEN: NPO; PICC placed and TPN started [**12-25**]; continuous IV
   hydration; replete lytes aggressively.
   #. Access: PICC.
   #. PPX: lovenox discontinued after hematemesis. Continue heparin sc
   bid.   PPI.
   #. Code: Full code -confirmed with patient on transfer to MICU
   #. Contact: With patient and mother
   # Disposition: call out to floor today, obtain PT consult.
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 39M advanced HIV/AIDS (CD4 30, VL 92K) c/b
   HBV, HSV encephalitis, CNS toxo, chronic diarrhea s/p LOA [**11-10**] w/
   wound vac, recently dx w/ cryptosporidiosis. D/c [**11-25**] on TPN, returned
   [**11-27**] w/ increased abdominal pain c/b med noncompliance - course
   further c/b fevers, CNS bacterimia (PICC), UTI (E. Coli), ARF/ATN,
   large volume diarrhea, ?GOO s/p GJ tube placement, and
   tachycardia w/ high grade SBO / pneumotosis on CT prompting ICU
   transfer. N/V now much improved.  Stool ouput decreasing.
   Nitazoxanide restarted.
   Exam: Tm 99-> 96.8 BP 119/80  HR 88-120   RR 12  with sat 96 on RA.  +
   > 5L  Cachectic M, less withdrawn, follow commands, lungs CTA with
   scant b rales, RRR 2/6SM / tachy. less distended, softer, +BS, less
   tender, warm, no edema.
   Labs reviewed: notable for WBC 5.5K, HCT 25.4, K+ 4.7, Cr 1.7, na 138,
   inr 1.3
   Agree with plan to continue to manage SBO with ongoing supportive
   care--con't GJ to gravity, continue NPO, slowly restarting po meds
   (nitzaoxanide).  We continue to match GI losses with aggressive IVF
   repletion (NS and D5 + HCO3 and K) which he is tolerating well without
   signs of volume overload.  Adjust fuid rates as diarrhea decreases.
   N/v, diarrhea, and pain are improving. Continue prn morphine, ativan /
   compazine.  Surgery is following closely. Plan to hold off on operative
   intervention given very high predicted mortality and
   morbidity. Following serial abd exams as repeat imaging at this time
   will not change management. ID assistance with antbx regimen
   appreciated. We con't IV zosyn for bowel flora/translocation, need to
   clarify length of course. D/w ID regarding time frame to resume
   PO prophylactic medications and HAART, likely in next
   1-2 days.   Anemia stable, likely of chronic ds as well as low grade GI
   losses and depressed BM fx, no evidence of hemolysis at this time,
   continue to follow h/h, heme check stools.  ARF continues to improve.
   Adjust zosyn dosing for cr cl. Remainder of plan as outlined above.
   NPO X meds, picc line. TPN, 2PIV, PPI, sq hep, Full OOB to chair, PT
   c/s. Stable for floor transfer.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2154-12-29**] 16:06 ------